US08487300B2
a) Preparation of 3′,2″-dinitro-p-quaterphenyl
2.4 g (2.1 mmol) of Pd(PPh3)4 are added to a well-stirred, degassed suspension of 18.8 g (154.5 mmol) of phenylboronic acid, 30 g (74.6 mmol) of 2,5-dibromonitrobenzene and 53 g (212.7 mmol) of potassium carbonate in a mixture of 300 ml of water and 300 ml of THF, and the mixture is heated under reflux for 20 hours. After cooling, the organic phase is separated off, washed three times with 200 ml of water and once with 200 ml of saturated sodium chloride solution, dried over magnesium sulfate and evaporated to dryness in vacuo in a rotary evaporator. The grey residue is recrystallised from hexane. The deposited crystals are filtered off with suction, washed with a little MeOH and dried in vacuo; yield: 23 g, 80% of theory; purity: 99.2% according to HPLC.

reactant | phenylboronic acid | 154.5 mmol, 18.8 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | 2,5-dibromonitrobenzene | 74.6 mmol, 30 g | BrC1=C(C=C(C=C1)Br)[N+](=O)[O-] | C6H3Br2NO2
reactant | potassium carbonate | 212.7 mmol, 53 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | 300 ml | O | H2O
solvent | THF | 300 ml | C1CCOC1 | C4H8O
catalyst | Pd(PPh3)4 | 2.1 mmol, 2.4 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3′,2″-dinitro-p-quaterphenyl | [N+](=O)([O-])C=1C=C(C=CC1C1=C(C=C(C=C1)C1=CC=CC=C1)[N+](=O)[O-])C1=CC=CC=C1 | C24H16N2O4
